US08372842B2
A solution of tert-butyl 4-(1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.440 g, 0.881 mmol) in DCM (5 mL) was added to TFA (1 mL) and stirred at room temperature for 1 hour. The reaction was then concentrated to dryness and dried under vacuum for 1 hour. TFA (3.39 mL, 44.0 mmol) was then added, and the mixture was stirred at 65° C. for 4 hours. The reaction was then concentrated to dryness, and the resulting residue was dissolved in DCM (3 mL). HCl in ether (2 mL, 2N) and ether (10 mL) were then added, and the resulting solid was collected by filtration to give 5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride (0.29 g, 75%). MS ESI (+) m/z 280.1 detected.

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.881 mmol, 0.440 g | COC1=CC=C(CN2N=CC=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)C=C1 | C29H33N5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 44.0 mmol, 3.39 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 0.29 g, 75% | Cl.Cl.C1(=CC=CC=C1)C=1C(=C2C(=NC1)NN=C2)N2CCNCC2 | InChI=1S/C16H17N5.2ClH/c1-2-4-12(5-3-1)13-10-18-16-14(11-19-20-16)15(13)21-8-6-17-7-9-21;;/h1-5,10-11,17H,6-9H2,(H,18,19,20);2*1H
